US06110913
5-(3-Bromo-1-propylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (3.00 g, 0.0096 mol), potassium carbonate (8.3 9, 0.060 mol), potassium iodide (3.3 g, 0.020 mol) and 4-piperidinecarboxylic acid ethyl ester (3.1 ml, 0.020 mol) was mixed in methyl ethyl ketone (100 ml) and heated at reflux temperature for 20 h and stirred at room temperature for 3 days. Water (100 ml) was added, the phases were separated, and the aqueous phase was extracted with ethyl acetate. The organic phase was dried (MgSO4) and evaporated in vacuo to give the crude product in almost quantitative yield. The crude product was treated with 1 N hydrochloric acid and ethyl acetate, evaporated to dryness and crystallised from ethyl acetate to give 2.89 g of 1-(3-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene)-1-propyl)-4-piperidinecarboxylic acid ethyl ester hydrochloride as a solid.

reactant | 5-(3-Bromo-1-propylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 0.0096 mol, 3.00 g | BrCCC=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C18H17Br
reactant | potassium carbonate | 0.060 mol | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.020 mol, 3.3 g | [I-].[K+]
reactant | 4-piperidinecarboxylic acid ethyl ester | 0.020 mol, 3.1 ml | C(C)OC(=O)C1CCNCC1 | C8H15NO2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | 100 ml | O | H2O
product | 1-(3-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene)-1-propyl)-4-piperidinecarboxylic acid ethyl ester hydrochloride | 2.89 g, quantitative yield | Cl.C(C)OC(=O)C1CCN(CC1)CCC=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | InChI=1S/C26H31NO2.ClH/c1-2-29-26(28)22-15-18-27(19-16-22)17-7-12-25-23-10-5-3-8-20(23)13-14-21-9-4-6-11-24(21)25;/h3-6,8-12,22H,2,7,13-19H2,1H3;1H
